US07678795B2
(1S,8R)-5-(5-Fluoro-2-methoxy-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light yellow solid. MS (ESI): 312.9 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-(5-Fluoro-2-methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(5-Fluoro-2-methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC(=C1)F)OC | C11H14FO5P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-(5-Fluoro-2-methoxy-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | FC=1C=CC(=C(C1)C1=NN=C2[C@]3(CC[C@@H](C2=C1)C3(C)C)C)OC | C19H21FN2O
